US05952321
A suspension of 755 mg (14.1mmol) of ammonium chloride and 213 mg (3.8 mmol) of potassium hydroxide in 5 mL of dry methanol was treated with 520 mg (1.08 mmol) of 3,3-diethyl-1-[(R)-α-(allyl)-4-(methyl)benzylaminocarbonyl]-4-(S)-[4-(1-oxo-2-methoxyethyl) phenoxy]azetidin-2-one. After 30 min, 205 mg (3.26 mmol) of sodium cyanoborohydride was added and the mixture stirred for 14 hr, at which point 1 gm of 3A molecular sieves was added. After 3 days, the mixture was diluted with methanol, filtered through Celite, concentrated in vacuo, filtered again (rinsing with ethyl acetate), concentrated in vacuo, and the residue purified by flash chromatography on 50 gm of silica eluting with 800 mL of 67:33 hexanes: ethyl acetate, then sequentially 1 L of 99:1 methylene chloride: methanol, 500 mL of 98.5: 1.5 methylene chloride: methanol, and 1 L of 97:3 methylene chloride: methanol to give 170 mg of 3,3-Diethyl-1-[(R)-α-(allyl)-4-(methyl)benzylaminocarbonyl]-4-(S)-[4-(1-(RS)-hydroxy-2-methoxyethyl)phenoxy]azetidin-2-one as well as impure product. The latter was purified by flash chromatography on 43 g of silica eluting with 97.5:2.5:0.3 methylene chloride: methanol: ammonia water to provide the product as an oil.

reactant | ammonium chloride | 14.1mmol, 755 mg | [Cl-].[NH4+]
reactant | potassium hydroxide | 3.8 mmol, 213 mg | [OH-].[K+]
reactant | 3,3-diethyl-1-[(R)-α-(allyl)-4-(methyl)benzylaminocarbonyl]-4-(S)-[4-(1-oxo-2-methoxyethyl) phenoxy]azetidin-2-one | 1.08 mmol, 520 mg | C(C)C1(C(N([C@H]1OC1=CC=C(C=C1)C(COC)=O)C(=O)N[C@@H](C1=CC=C(C=C1)C)CC=C)=O)CC | C28H34N2O5
reactant | sodium cyanoborohydride | 3.26 mmol, 205 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 3,3-Diethyl-1-[(R)-α-(allyl)-4-(methyl)benzylaminocarbonyl]-4-(S)-[4-(1-(RS)-hydroxy-2-methoxyethyl)phenoxy]azetidin-2-one | 170 mg | C(C)C1(C(N([C@H]1OC1=CC=C(C=C1)C(COC)O)C(=O)N[C@@H](C1=CC=C(C=C1)C)CC=C)=O)CC | C28H36N2O5
